US08138197B2
5-{1′-tert-butoxycarbonyl-4-oxospiro[chroman-2,4′-piperidin]-6-yl}nicotinic acid tert-butyl ester (14.0 g, 28.3 mmol) was dissolved in CHCl3 (70 mL) and 4N HCl in dioxane (210 mL) was added thereto, and stirred at room temperature for 20 h. The resulted precipitate was filtered and washed with CHCl3 and Et2O to afford 5-{4-oxospiro[chroman-2,4′-piperidin]-6-yl}nicotinic acid di-hydrochloride as a colorless solid.

reactant | 5-{1′-tert-butoxycarbonyl-4-oxospiro[chroman-2,4′-piperidin]-6-yl}nicotinic acid tert-butyl ester | 28.3 mmol, 14.0 g | C(C)(C)(C)OC(C1=CN=CC(=C1)C=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)=O)=O | C28H34N2O6
reactant | HCl | 4N | Cl | ClH
solvent | CHCl3 | 70 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 210 mL | O1CCOCC1 | C4H8O2
product | 5-{4-oxospiro[chroman-2,4′-piperidin]-6-yl}nicotinic acid di-hydrochloride | Cl.Cl.O=C1CC2(CCNCC2)OC2=CC=C(C=C12)C=1C=NC=C(C(=O)O)C1 | InChI=1S/C19H18N2O4.2ClH/c22-16-9-19(3-5-20-6-4-19)25-17-2-1-12(8-15(16)17)13-7-14(18(23)24)11-21-10-13;;/h1-2,7-8,10-11,20H,3-6,9H2,(H,23,24);2*1H
